US07449466B2
To 1-(3-chloro-4-methoxymethoxyphenyl)-4-phenethyl-piperazine (214 mg), 2-propanol (1 mL) and tetrahydrofuran (1 mL) were added, followed by cooling with ice and addition of conc. hydrochloric acid (0.5 mL). Raising the temperature back to the ambient level, the mixture was stirred for 4.5 hours. The reaction mixture was poured in saturated saline solution, rendered weakly alkaline with saturated aqueous sodium hydrogencarbonate solution, and the product was extracted with ethyl acetate. The organic layer was washed with saturated saline solution and dried over anhydrous magnesium sulfate. The solvent was distilled off and the resulting crude product was purified on TLC (developer, chloroform: acetone=5:1) to provide 2-chloro-4-(4-phenethylpiperazin-1-yl)phenol (93 mg).

reactant | 1-(3-chloro-4-methoxymethoxyphenyl)-4-phenethyl-piperazine | 214 mg | ClC=1C=C(C=CC1OCOC)N1CCN(CC1)CCC1=CC=CC=C1 | C20H25ClN2O2
reactant | 2-propanol | 1 mL | CC(C)O | C3H8O
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-(4-phenethylpiperazin-1-yl)phenol | 93 mg | ClC1=C(C=CC(=C1)N1CCN(CC1)CCC1=CC=CC=C1)O | C18H21ClN2O
